US05670455
Preparation of 2-(2,4-dichlorophenyl)-imidazo[1,2-a]pyridine
A mixture of 8.4 g (89.2 mmol) 2-aminopyridine and 20.1 g (89.9 mmol) of 2,2',4'-trichloroacetophenone in 300 ml of ethanol was heated at reflux with stirring for 14 h. At this point, another 5.0 g (22.4 mmol) of 2,2',4'-trichloroacetophenone was added and the reaction mixture heated an additional 6 h. Ethyl acetate (400 ml) and excess saturated aqueous sodium bicarbonate were slowly added. After thorough mixing, the ethyl acetate layer was separated and washed with two fold excess water, saturated brine, and dried over magnesium sulfate. Evaporating the solvent in vacuo to almost dryness gave a wet solid residue to which n-butyl chloride was added. This solid was filtered and washed thoroughly with n-butyl chloride before drying. A yield of 9.0 g of the title compound was obtained (m.p. 173°-175° C.) as a technical material which was not purified further but used directly in the next step.

reactant | 2-aminopyridine | 89.2 mmol, 8.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | 2,2',4'-trichloroacetophenone | 89.9 mmol, 20.1 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | 2,2',4'-trichloroacetophenone | 22.4 mmol, 5.0 g | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | Ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(2,4-dichlorophenyl)-imidazo[1,2-a]pyridine | yield of 9.0 g | ClC1=C(C=CC(=C1)Cl)C=1N=C2N(C=CC=C2)C1 | C13H8Cl2N2
